US04216333
A mixture of pyridine (15 ml), triphenyl phosphite (1.55 g, 5 mmole), imidazole (0.68 g, 10 mmole) and triphenylmethanol (2.08 g, 8 mmole) was refluxed for 3 hours. The reaction mixture was treated in the same manner as in Example 11 to give 2.05 g of 1-triphenylmethylimidazole as colorless needles. Yield, 82.7%. M.P., 218°-221° C.

reactant | triphenyl phosphite | 5 mmole, 1.55 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | imidazole | 10 mmole, 0.68 g | N1C=NC=C1 | C3H4N2
reactant | triphenylmethanol | 8 mmole, 2.08 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-triphenylmethylimidazole | 2.05 g | C1(=CC=CC=C1)C(N1C=NC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H18N2
